US07129234B2
5-Bromo-2-[4-(trifluoromethoxy)phenoxy]nicotinic Acid
A mixture of 5-bromo-2-chloronicotinic acid (2.36 g, 10 mmol), 4-trifluoromethoxyphenol (2.14 g, 12 mmol) and K2CO3 (4.14 g, 30 mmol) in DMF (30 mL) was heated at 140° C. for 24 h. After cooling to room temperature the mixture was diluted with water (150 mL) and the pH was adjusted to 6 with acetic acid. The mixture was extracted with EtOAc (3×50 mL) and the combined organic extracts were dried (MgSO4) and evaporated to give an oil. This was triturated with water to give a sticky solid which was filtered and washed with water and then pentane. The resulting beige solid was suspended in further pentane, sonicated, filtered and dried in vacuo at 60° C. to give the product (0.92 g, 24%) as a beige solid; (δH (CDCl3, 300 MHz) 7.19 (2H, m), 7.28 (2H, m), 8.35 (1H, s), 8.58 (1H, s); MS m/z (TS+) 378, 380 (MH+).

reactant | 5-bromo-2-chloronicotinic acid | 10 mmol, 2.36 g | BrC=1C=NC(=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | 4-trifluoromethoxyphenol | 12 mmol, 2.14 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | K2CO3 | 30 mmol, 4.14 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 150 mL | O | H2O
product | 5-Bromo-2-[4-(trifluoromethoxy)phenoxy]nicotinic Acid | 0.92 g, 24% | BrC=1C=NC(=C(C(=O)O)C1)OC1=CC=C(C=C1)OC(F)(F)F | C13H7BrF3NO4
